US08252933B2
Sodium 5-chloro-3-(ethyl(phenyl)carbamoyl)-1-methyl-2-oxo-1,2-dihydroquinolin-4-olate:
The pH value of a solution of 5-chloro-N-ethyl-4-hydroxy-1-methyl-2-oxo-N-phenyl-1,2-dihydroquinoline-3-carboxamide (170 mg, 0.48 mmol, 1.00 equiv) in ethanol (5 ml) was adjusted to 9-10 with a solution of 5M sodium hydroxide. The mixture then was stirred for about 30 min at ambient temperature. The resulting solids were collected by filtration and washed with ethanol to give the title compound as a white solid (70 mg, yield: 39%). 1H NMR (300 MHz, DMSO) δ: 6.84˜7.31 (m, 8H), 3.68 (q, 2H), 3.34 (s, 3H), 1.02 (t, 3H). LC-MS: m/z=357 (M-Na+2H)+

reactant | 5-chloro-N-ethyl-4-hydroxy-1-methyl-2-oxo-N-phenyl-1,2-dihydroquinoline-3-carboxamide | 0.48 mmol, 170 mg, 1.00 equiv | ClC1=C2C(=C(C(N(C2=CC=C1)C)=O)C(=O)N(C1=CC=CC=C1)CC)O | C19H17ClN2O3
reactant | sodium hydroxide | 5M | [OH-].[Na+]
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | Sodium 5-chloro-3-(ethyl(phenyl)carbamoyl)-1-methyl-2-oxo-1,2-dihydroquinolin-4-olate | 70 mg, yield: 39% | ClC1=C2C(=C(C(N(C2=CC=C1)C)=O)C(N(C1=CC=CC=C1)CC)=O)[O-].[Na+] | InChI=1S/C19H17ClN2O3.Na/c1-3-22(12-8-5-4-6-9-12)19(25)16-17(23)15-13(20)10-7-11-14(15)21(2)18(16)24;/h4-11,23H,3H2,1-2H3;/q;+1/p-1
